US07115748B2
4-(2-Thienyl)-2-imidazolidinethione 36J, Method 2 .
. . A solution of 140 mg (1.0 mmol) of 2-thienyl-1,2-diaminoethane and allyl isothiocyanate (99 mg, 1 mmol) in bromobenzene (5 mL) was heated for 40 min and allowed to cool to room temperature and then cooled to −5° C. The title compound (160 mg, 83% yield) was obtained upon filtration and washing with hexane.

reactant | 2-thienyl-1,2-diaminoethane | 1.0 mmol, 140 mg | S1C(=CC=C1)C(CN)N | C6H10N2S
reactant | allyl isothiocyanate | 1 mmol, 99 mg | C(C=C)N=C=S | C4H5NS
solvent | bromobenzene | 5 mL | BrC1=CC=CC=C1 | C6H5Br
product | 4-(2-Thienyl)-2-imidazolidinethione | 160 mg, 83% yield | S1C(=CC=C1)C1NC(NC1)=S | C7H8N2S2
